US07947693B2
c) 7-Chloro-5-{[(1S)-1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-2-amine
POCl3 (2.77 mL, 29.7 mmol) was added to DMF (3.07 mL, 39.6 mmol) in dioxane (30 mL). After 30 minutes this mixture was added to a solution of 2-amino-5-{[(1S)-1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-ol (6.38 g, 19.8 mmol) in dioxane (100 mL). After 30 minutes POCl3 (2.77 mL, 29.7 mmol) was added, the reaction mixture was heated to 80° C. for 2 h. After cooling to room temperature, water (20 mL) was carefully added and the resulting mixture was stirred at 80° C. for 30 minutes and at room temperature for 2 h. The reaction mixture was poured into water and the formed precipitate was collected. The solid was purified by flash column chromatography (5% MeOH in CHCl3) to give the title compound (5.91 g, 88% yield).

reactant | POCl3 | 29.7 mmol, 2.77 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 39.6 mmol, 3.07 mL | CN(C)C=O | C3H7NO
reactant | 2-amino-5-{[(1S)-1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-ol | 19.8 mmol, 6.38 g | NC=1SC2=C(N=C(N=C2O)S[C@@H](C)C2=C(C=CC=C2)F)N1 | C13H11FN4OS2
reactant | POCl3 | 29.7 mmol, 2.77 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | 20 mL | O | H2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 7-Chloro-5-{[(1S)-1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-2-amine | 5.91 g, 88% yield | ClC=1C2=C(N=C(N1)S[C@@H](C)C1=C(C=CC=C1)F)N=C(S2)N | C13H10ClFN4S2
